* Initialisation

.param vdd=1.8
.lib /home/tp-soa/Projet_SOA/PROJET_IA/.ciel/sky130A/libs.tech/ngspice/sky130tt.lib.spice tt
.include /home/tp-soa/Projet_SOA/PROJET_IA/.ciel/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice


Vdd VDD 0 {vdd}
VNB VNB 0 0
VPB VPB 0 {vdd}

* Définition des signaux pour forcer les transitions

VA A 0 PWL(
+0 0
+4.9n 0
+5n {vdd} 
+10n {vdd} 
+15n 0)

VB B 0 PWL(
+0 0 
+9.9n 0
+10n {vdd} 
+15n {vdd}
+17n 0)

XU1 A B 0 VNB VPB VDD Xout sky130_fd_sc_hd__xor2_1

.tran 0.01n 20n

* --- MESURES ---
.meas tran trise1 TRIG v(A) VAL={vdd/2} RISE=1 TARG v(Xout) VAL={vdd/2} RISE=1
.meas tran tfall1 TRIG v(B) VAL={vdd/2} RISE=1 TARG v(Xout) VAL={vdd/2} FALL=1
.meas tran trise2 TRIG v(A) VAL={vdd/2} FALL=1 TARG v(Xout) VAL={vdd/2} RISE=2
.meas tran tfall2 TRIG v(B) VAL={vdd/2} FALL=1 TARG v(Xout) VAL={vdd/2} FALL=2


.meas tran tpd_avg PARAM='(tfall1+tfall2+trise1+trise2)/4'

.end
